US05571810
Sodium hydride (60%; 40 mg) was added to an ice-cooled solution of ethyl 5-[4-(formylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylate (0.35 g) in N,N-dimethylformamide (10 ml). The mixture was stirred at ambient temperature for 30 minutes, and to the resulting mixture was added methyl iodide (0.23 g) at 5° C. The mixture was stirred at ambient temperature for 1.5 hours and poured into ice-water. The precipitates were collected, washed with water, and dried in vacuo to give ethyl 5-[4-(N-formylmethylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylate (0.34 g).

reactant | Sodium hydride | 40 mg | [H-].[Na+]
reactant | ethyl 5-[4-(formylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylate | 0.35 g | C(=O)NC1=CC=C(C=C1)C1=C(C=C(S1)C(=O)OCC)C1=CC=C(C=C1)S(=O)(=O)C | C21H19NO5S2
reactant | methyl iodide | 0.23 g | CI | CH3I
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 5-[4-(N-formylmethylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylate | 0.34 g | C(=O)CNC1=CC=C(C=C1)C1=C(C=C(S1)C(=O)OCC)C1=CC=C(C=C1)S(=O)(=O)C | C22H21NO5S2
